data/mechanism_extracts/Tetrahedron/10.1016_j.tetlet.2021.153602.json
{"doi": "10.1016_j.tetlet.2021.153602", "journal": "Tetrahedron", "is_review": false, "rxn_class_summary": "Electrochemical halo-heterocyclization of N-allylbenzamides using 1,2-dichloroethane (DCE) as a chloride shuttle to construct 5-halomethyl-2-oxazolines, 2-thiazolines, 1,3-oxazines and isoxazolines", "mechanism_family": ["paired_electrolysis", "mediator_anodic", "cation_initiated"], "electrochemical_role": "Cathodic reduction of DCE generates a chloroethyl radical/carbanion that fragments to ethylene and Cl-; the released Cl- is then anodically oxidized to electrophilic Cl+ which initiates chloro-cyclization of the N-allylbenzamide (DCE acts as an e-shuttle halogenating reagent in a paired electrolysis).", "key_intermediates": [{"name": "chloroethyl radical from one-electron reduction of DCE (A)", "smiles": "[CH2]CCl", "role": "transient"}, {"name": "chloroethyl carbanion (B) from second reduction", "smiles": "[CH2-]CCl", "role": "transient"}, {"name": "ethylene + chloride (from beta-elimination of B)", "smiles": "C=C", "role": "transient"}, {"name": "electrophilic Cl+ from anodic oxidation of Cl-", "smiles": "[Cl+]", "role": "reactive"}, {"name": "chloriranium/chloronium complex C of N-allylbenzamide with Cl+", "smiles": null, "role": "reactive"}, {"name": "cyclized oxazolinium intermediate D (pre-deprotonation)", "smiles": null, "role": "transient"}], "electron_flow": "At the cathode, DCE is reduced (2 e-) to a chloroethyl radical (A) then carbanion (B), which beta-eliminates Cl- and releases ethylene. The liberated Cl- migrates to the anode where it is oxidized to electrophilic Cl+; this Cl+ activates the alkene of the N-allylbenzamide (intermediate C), the amide oxygen cyclizes onto the chloronium (intermediate D), and loss of H+ delivers the 5-chloromethyl-2-oxazoline product 2aa.", "rate_determining_step": null, "probe_reagents": [{"name": "cyclic voltammetry of 1aa, DCE, and Et4NBF4 in MeCN", "smiles": null, "purpose": "redox_probe", "observation": "No oxidation wave for 1aa in 0-2.0 V, ruling out direct anodic oxidation of the alkene to a radical cation; DCE shows a reduction peak at 0.95 V and an oxidation peak at 1.41 V (Cl- generated from DCE reduction is oxidized at the anode)."}], "evidence_types_used": ["cyclic_voltammetry"], "evidence_strength": "weak", "notes": "An alternative mechanism via direct anodic oxidation of the alkene 1aa to a radical cation was explicitly excluded by CV (no oxidation of 1aa in 0-2.0 V). The mechanism is supported mainly by CV and analogy to prior work; no radical traps, KIE, or DFT calculations are reported on these pages."}
